US08563565B2
(2) Synthesis of 3-bromo-2-(fluoromethyl)-4,6-dimethylpyridine
A mixture of 3-bromo-2-(bromomethyl)-4,6-dimethylpyridine (1.00 g) and TBAF (17.9 mL, 1 M solution in THF) was stirred at room temperature for two hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 30%) to give the title compound (651 mg).

reactant | 3-bromo-2-(bromomethyl)-4,6-dimethylpyridine | 1.00 g | BrC=1C(=NC(=CC1C)C)CBr | C8H9Br2N
reactant | TBAF | 1 M, 17.9 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-bromo-2-(fluoromethyl)-4,6-dimethylpyridine | 651 mg | BrC=1C(=NC(=CC1C)C)CF | C8H9BrFN
